data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,9051,"BrC1CCCC[CH:1]1[Br:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6960,"CC(C)CCCCC(O)C(OC1=CC=CC=C1)C(=O)O.CC1=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1.CCOC(=O)[N:2]=[N:3]C(=O)OCC|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4243,"CC1CC(=N[OH:1])C2(C)C3=CCC4CC(O)CCC4(C)C3CCC12C.O=C(O[C:2](C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2688,"C[C:1](C(F)(F)F)=[N:2][CH-:3]C1=CC=C([N+](=O)[O-])C=C1.O.O=CC=CC1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,253,"CC1=C2C3=CC(O[CH:1]=[OH+:2])=CC=C3N(C)C2=C(C)C2=C1C=NC=C2.C[OH:3].O=S(=O)([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10057,"BrBr.CC(=O)[O-:1].COC1CC23C(C(C)(C)C)CC4OC(=O)C5(CC=CC452)OC3[O+:2]1[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1557,"C[C+:1]=O.C[C:2]1=[CH:3][CH:4]=[CH:5]C=C1|((2, 3), 4);((4, 5), 1)"
train,pmechdb_split_0,0,1941,"CC(=O)[O-].CC(C)(C)CC(=O)CC#N.CC1=CC=C([CH:1]([N:2]2CCCCC2)[OH2+:3])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4965,"C1C[NH:1]CCO1.C=CC1=CC2=C(C=C1)C([O][Ti-]([Cl])([Cl])([Cl])[Cl])([N+:2]1([H:3])CCOCC1)CCO2|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9458,"CC[O:1][H:2].COC1=CC=CC(CCC2C(=O)CCC3(C)C(=O)CCC23[O-:3])=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5099,"BrC(Br)Br.ClC1=CC=C(C=CCO[P:1](C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)[Br:2])C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,6954,"O=[C+:1]CCCC[C:2]1=[CH:3]C=CC=C1|((2, 3), 1)"
train,pmechdb_split_0,0,1753,"CC(=O)O.O.O=C(O)C[NH:1]C(=CC(C1=CC=CC=C1)[C:2](C1=CC=CO1)=[O:3])C1=C2C=CC=CC2=CC=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6961,"C1=CC2=CC=C[CH:1]=[C:2]2C=C1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7340,"C[SH:1].[I:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8603,"CC(CC[OH:1])OS(=O)(=O)C(F)(F)F.O=S(=O)(O[S:2](=O)(C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7941,"C1CC[C:1]([OH2+:2])([OH:3])OC1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5812,"C=C1CC23C(=O)C(CC(COCC4=CC=C(OC)C=C4)=CC2[C:1]1([H:2])[O:3][I+:4]1(OC(C)=O)OC(=O)C2=C1C=CC=C2)C1C(CC3C)C1(C)C.CC(=O)O.CC(=O)[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6770,"CC(=O)O[C:1](C[NH:2][C:3](C)=[O:4])=[O:5]|(2, 3);((3, 4), 1);((1, 5), 5)"
train,pmechdb_split_0,0,8636,"CC(=O)[O:1][H:2].CCOC(=O)C=CC1=C(C2OCCC[O:3]2)C(F)=CC=C1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8418,"CC(=O)[O-].CC1(C)C2=C(C=C(Br)C(N3CC[N+:1](=[C:2]4COC4)CC3)=C2)C(=O)C2=C1NC1=CC=CC=C12.CO.N#C[BH2-:3][H:4].O|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3380,"CC(O)(O)[O:1]C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9888,"CC[C:1]1([H:2])CCCC(C)[CH+:3]1|((1, 2), 3)"
train,pmechdb_split_0,0,6626,"CC[O-:1].C[C:2]1([H:3])C(=O)CC[C:4]1=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3948,"CC(=O)[NH:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1915,"CCC(=O)N(C)C(C)C([O][Li-:1][NH+:2](C(C)C)C(C)C)C1=CC=CC=C1|((1, 2), 2)"
train,pmechdb_split_0,0,142,"CC(C)=C[CH2+:1].CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCC1=CC(O)=C(CC=C(C)C)[C:2](O)=[CH:3]1.O|((2, 3), 1)"
train,pmechdb_split_0,0,7317,"F[B-](F)(F)[O:1]CCC[O+:2]=[CH2:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9194,"CCCCOB(OC(C1=CC=CC=C1)C(C)C(=O)N1C(=O)OCC1CC1=CC=CC=C1)[O+:1](CCCC)[H:2].OO.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10189,"CN[C:1](OC)([OH:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1725,"CC1OC2=C(C(O[Si](C(C)C)(C(C)C)C(C)C)=CC=C2Br)C1(C)C(C[CH+]C[Si](C)(C)C)[O][Ti-:1]([Cl])([Cl])([Cl])[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,859,"CC[O+:1]=[CH2:2].C[Si](C)(C)[O:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3669,"C1=NN=N[N-]1.CC(C)[NH:1]C(C)C.CC1=CN(C2CC(O[P+:2](OCCC#N)(OC3CC(N4C=C(C)C(=O)NC4=O)OC3COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[H:3])C(C)O2)C(=O)NC1=O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2976,"CCOCC.O.O=S(=O)([O-])O.OC1=CC=C(C[C:1]#[NH+:2])C=C1.OC1=C[C:3]([OH:4])=[CH:5]C(O)=C1|(4, 3);((3, 5), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8690,"COC(=O)N1CCC2C=CC([OH:1])C(CCO[Si](C)(C)C(C)(C)C)C21.CO[C:2](C)=[N+:3](C)C.C[O-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1668,"C[S:1]C.[OH:2][Cl:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,410,"C1=CC=CC=C1.C1C[NH:1]CCO1.O=C1CCC[C:2](=[O:3])C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10059,"C1CCC2=[NH+]CCCN2CC1.COC(=O)C(C[CH:1](C(=O)OC)[Br:2])=C(C)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4121,"CC(C)(CCC1=CC=CC=C1)[OH:1].O=S(=O)(F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5177,"C=C(C)O[Si](C)(C)C.CC=[O:1].[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,5641,"CCOP(C)(C)(C)N(NC(=O)OC)C(OC)=[O+:1][H:2].[N-]=[N+]=[N-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2490,"C1=C[CH:1]=[CH:2]C=C1.C[CH+:3]C.O=P([O-])(O)O|((2, 1), 3)"
train,pmechdb_split_0,0,4874,"CCNC(C)(O)[N:1](CC)CC.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6477,"C1=CC([CH2-:1])=CC=N1.[CH3:2][Br:3]|(1, 2);((2, 3), 3)"
